US04889736
3,4-dihydroxy-3,4-dimethyl-2,5-hexanedione was prepared by photochemistry. A closed flask [Pyrex (trade mark)], which contained a solution of 20.1 g (0.23 mol) 2.3-butanedione in 81 g 2-propanol, was allowed to stand in daylight for 4.5 months. The solvent was evaporated under reduced pressure (about 20 mm Hg); traces of volatiles were removed by simultaneous evaporation with two parts of toluene of 40 ml. The semi-solid, white residue (13.9 g) was recrystallized twice with a mixture of ether and hexane in a ratio of 1:1, yielding 5.2 g colourless crystals having a melting point of 95°-96° C.

reactant | 2.3-butanedione | 0.23 mol, 20.1 g | CC(C(C)=O)=O | C4H6O2
solvent | 2-propanol | 81 g | CC(C)O | C3H8O
product | 3,4-dihydroxy-3,4-dimethyl-2,5-hexanedione | OC(C(C)=O)(C(C(C)=O)(C)O)C | C8H14O4
